* ota5_nmos_22n.qsch
M2 out N05 N03 0 NMOS l=M1_L w=M1_W NMOS
M4 out N01 N02 N02 PMOS l=M3_L w=M3_W PMOS
M1 N01 in N03 0 NMOS l=M1_L w=M1_W NMOS
M3 N01 N01 N02 N02 PMOS l=M3_L w=M3_W PMOS
M5 N03 N04 0 0 NMOS l=M5_L w=M6_W*M5_WM NMOS
V1 N02 0 V=0.8
M6 N04 N04 0 0 NMOS l=M5_L w=M6_W NMOS
I1 N02 N04 I=5µ
V2 N05 0 V=0.4
V3 in N05 AC=0.1
C1 out 0 C=1p
.meas gain max dB(V(out)/V(in))
.meas cur param I(V1)
.ac dec 20 0 10G
.meas gx find frequency when mag(v(out)/v(in))=1
//.op
.param M1_L=2.316467599997469e-07 M3_L=9.861962232880977e-07 M5_L=4.6129260077291526e-06 M1_W=3.114598826154457e-05 M3_W=4.051872295505026e-05 M6_W=4.122718105716633e-07 M5_WM=16.0
.meas phs find phase(v(out)/v(in)) when mag(v(out)/v(in))=1
.lib C:\Users\Steam\Documents\QSPICE\cmos_22nm_hp.txt
.end
